US09217049B2
Metallocenes MET 1, MET 3, and MET 4 were produced using suitable procedures. MET 2 was synthesized by first reacting lithiated indene with 5-bromo-1-pentene. Pure 3-(1-pentenyl) indene was obtained via vacuum distillation as a pale yellow oil. One mole of 3-(1-pentenyl) indene was added to diethyl ether and cooled to −74° C., and one mole of n-butyllithium was added. The reaction mixture was stirred at 21° C. for 3 hr, then cooled again to −74° C., followed by the addition of a diethyl ether solution of dichloro(diisopropylamino) boron, and then stirred for 12 hr while warming to 21° C. The resulting yellow slurry was centrifuged, and the bright yellow solution was poured off and solvent removed under reduced pressure. Monochloro(diisopropylamino)-3-(1-pentenyl)indenylboron was obtained as a yellow oil. One mole of monochloro(diisopropylamino)-3-(1-pentenyl)indenylboron was added to tetrahydrofuran and cooled to 0° C., followed by the addition of one mole of sodium cyclopentadiaenide, producing a yellow slurry, which was stirred at 21° C. for 12 hr. The reaction solution was centrifuged and then decanted off. Concentration under reduced atmosphere yielded the ligand shown below as a yellow oil:

reactant | indene | C1C=CC2=CC=CC=C12 | C9H8
reactant | 5-bromo-1-pentene | BrCCCC=C | C5H9Br
product | 3-(1-pentenyl) indene | C(=CCCC)C1=CCC2=CC=CC=C12 | C14H16
